US08431713B2
Step A: Preparation of tert-butyl 4-(2-(5-(3-methoxyphenylthio)-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate:
tert-Butyl 4-(2-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate (0.15 g, 0.27 mmol), Pd2dba3 (0.25 g, 0.27 mmol), Xantphos (0.20 g, 0.34 mmol), and K3PO4 (0.175 g, 0.823 mmol) were suspended in degassed toluene (2 mL). 3-Methoxybenzenethiol (0.068 mL, 0.55 mmol) was added. The mixture was stirred at 130° C. for 3 hours in a sealed tube. The solution was cooled and flash chromatographed (40-50% EtOAc/hexanes) to afford the title compound (0.084 g, 51% yield) as an off-white solid.

reactant | tert-Butyl 4-(2-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 0.27 mmol, 0.15 g | BrC=1C(=CC(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC=1C(=NC=CC1)C | C24H28BrN5O3S
reactant | Xantphos | 0.34 mmol, 0.20 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 0.823 mmol, 0.175 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-Methoxybenzenethiol | 0.55 mmol, 0.068 mL | COC=1C=C(C=CC1)S | C7H8OS
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.27 mmol, 0.25 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(2-(5-(3-methoxyphenylthio)-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 0.084 g, 51% yield | COC=1C=C(C=CC1)SC=1C(=CC(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC=1C(=NC=CC1)C | C31H35N5O4S2
